US03931407
3-(3-Carbamoyl-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole ##SPC106##
A mixture of 2.0 g. (0.005 mole) of 4,5-dihydro-3-(4-hydroxy-3-methoxycarbonylphenyl)2-phenylbenz[e]indole, 75 ml. of ammonium hydroxide, and 40 ml. of dimethyl formamide was heated under reflux for 3 hours, cooled, diluted with water, acidified, and extracted with ether. The ether phase was dried over sodium sulfate and concentrated to a solid. Recrystallization from benzene gave 1.21 g. (63%) of colorless crystals, m.p. 213°-215°.

reactant | 4,5-dihydro-3-(4-hydroxy-3-methoxycarbonylphenyl)2-phenylbenz[e]indole | 0.005 mole | OC1=C(C=C(C=C1)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3)C(=O)OC | C26H21NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(3-Carbamoyl-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | C(N)(=O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H20N2O2
